Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Melatonin
 
Attending: ___.
 
Chief Complaint:
L flank pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female with PMHx of osteoporosis with mult 
compression fractures, adjustment disorder, left hip fx ___ s/p 
fixation and repair who awoke this morning at ___ in exquisite 
left sided flank pain over her ribs and came to the ED.  Pain is 
throbbing, stabbing, aching.  Pt has decreased movement of L arm 
due to pain; must use care w/ positioning.  There she had a CXR 
negative for acute process but, due to pain, underwent a CT scan 
of her chest which revealed scattered foci of ground-glass 
opacity are seen throughout the anterior segment of the left 
upper lobe, adjacent to mildly deformed ribs (lateral left ribs 
3, 6 and 7) and a small intercostal hematoma consistent with new 
rib fractures.  She elected to go home with morphine but 
returned with worsening pain. She denies abuse, (lives with son 
and his GF and has "great" relationship with them), does have 
dogs which occasionally jump on her but they weigh ___ pounds, 
and went bowling on ___.  She does not know the source of 
her pain.  
.
ROS is negative for F/C, weight loss, changes in appetite, or 
other constitutional Sx, although she does report ~10 lb weight 
loss over ~10 mos due to passing of her husband.  Remaining ROS 
is negative.
.
In the ED tonight, her O2 sats were in the high ___ on room air 
with a respiratory rate of ___. Her vitals most recently were 
98.6 104 135/85 18 99% RA.  She was given Morphine with good 
pain relief.  Per her PCP, ___, she is being admitted for 
pain control.  
.  
Of note, she has used narcotics frequently for pain in the 
outpatient setting and has a current narcotics agreement in OMR. 
 She reports currently using 15mg morphine sustained release 
Q8hr and 15mg morphine immediate release Q12hr, alternating this 
with Tylenol Q12hr.  Per the pt, she fell on her left side last 
summer and hurt her right hand and at that time remembers 
hurting the left flank but, according to her, the flank pain was 
not worked up. 
 
Past Medical History:
PMHx:  
Adjustment disorder  
fracture of the base of the fifth metacarpal  
lower back pain  
L hip fx, with plates/pins placed, ___  
Cervical hemilaminectomy, C4/C5 for slipped/ruptured disc  
TAH ___ (no bso)  
Osteoporosis  
Compression fractures  
Urinary incontinence  

 
Social History:
___
Family History:
Fam Hx:  
F: Late onset DM ___ y/o and alive)  
M: Passed away of pancreatic cancer ___  

 
Physical Exam:
VS: Tm 97.9  Tm 97.9  BP 113-120/70-81  HR 86-101  RR 32 O2sat 
95-98% RA  
GEN: Well appearing female, no acute distress  
Skin: No ecchymoses or other e/o external trauma over chest and 
back, no rashes, lesions, or discolorations
HEENT: NCAT, MMM, OP clear
Neck: Supple, no ___ bruits, no JVD   
CV: RRR, nl S1, S2, no M/R/G
Resp: Shallow, rapid breaths ___ pain, clear, ?decreased breath 
sounds at lung bases bilaterally  
Abd: +BS, no bruits, soft, NT/ND, no guarding/rigidity/rebound, 
no masses or organomegaly  
Back: No spinal or CVA tenderness  
MS: Some TTP over left ribs beneath breast, more lateral than 
anterior; pain is diffuse and not localized to certain ribs
Ext: No CCE, 2+ symmetric pedal pulses  
Neuro: A&O x 3, CN II-XII intact, sensation/motor intact 
throughout, 2+ reflexes throughout, coordination intact
Breast: WNL, no axillary ___, no discharge, no skin findings

 
Pertinent Results:
___ 10:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.5 LEUK-SM 

___ 10:30PM URINE  RBC-9* WBC-5 BACTERIA-NONE YEAST-NONE 
EPI-4 TRANS EPI-<1
___ 12:35PM BLOOD WBC-10.0 RBC-4.62 Hgb-12.7 Hct-39.6 
MCV-86 MCH-27.6 MCHC-32.2 RDW-15.7* Plt ___
___ 12:35PM BLOOD Plt ___
___ 12:10AM BLOOD ___ PTT-31.3 ___
___ 12:35PM BLOOD Glucose-116* UreaN-15 Creat-0.5 Na-138 
K-4.3 Cl-102 HCO3-24 AnGap-16
___ 12:10AM BLOOD ALT-25 AST-31 AlkPhos-82 TotBili-0.2
___ 12:10AM BLOOD Albumin-4.0 Calcium-8.7 Phos-3.5 Mg-2.4
___ 12:35PM BLOOD TSH-1.0
___ 12:35PM BLOOD PTH-128*
___ 12:10AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:35PM BLOOD VITAMIN D ___ DIHYDROXY-PND

EKG: Sinus rhythm. Baseline artifact. Normal tracing. No 
previous tracing 
available for comparison.  
  
 
Read by: ___ 
 
  ___ Axes 
Rate PR QRS QT/QTc P QRS T 
85 154 82 398/441 40 36 55 
 
  
(___) 

CXR: ___
IMPRESSION:

1) No acute cardiopulmonary abnormalities.

2) Stable appearance of compression fractures at T10, T11, and 
L1.

3) Left anterior rib fractures as seen on the CT obtained 
concurrently are not appreciated. There is no pneumothorax.

CT chest ___
IMPRESSION:
1. Given the clinical presentation, the mildly deformed left 
lateral ribs suggest fracture. The associated ground-glass 
opacities are thought to be related to trauma, therefore 
pulmonary contusions. Other considerations include pneumonia, 
correlate for infectious symptoms.
2. Old compression fractures of T10, T11 and L1, and old 
left-sided rib fractures.

 
Brief Hospital Course:
Pt remained stable throughout, with pain control achieved, she 
remained on appropriate prophylaxis throughout her stay, she 
took good PO throughout and had no acute issues. 

1. Pain control: the patient has a known narcotic contract, and 
required iv narcotics to control her pain in the ED. She was 
then transitioned to her home PO regimen of oxycontin and 
morphine ___ and tylenol and she remained on this regimen with 
good pain control throughout. A opiate spec was sent to see if 
there is any illicit opiate use, this is pending and will be 
followed up with her PMD. On the morning after her admission, 
she experienced some nausea and required Zofran. She had no 
CP/SOB/Abd pain and this was attributed to an exacerbation of 
her pain. this resolved quickly and without recurrance. 

2.Depression/bipolar: she had no issues or symptoms while 
hospitalized

3. Osteoporosis: A workup for her osteoporosis revealed the 
following: Normal renal function, normal chemistries including 
calcium and phos. Normal TSH, normal liver function. A 25 - OH 
vit d is pending and will be followed up with her PMD. A PTH 
level was high at 128, suggestive of primary parathyroidism, and 
Dr. ___ was contacted and will be following up regarding this. 


 
Medications on Admission:
Meds:  
Alendronate 70mg weekly  
Gabapentin 300mg daily at bedtime  
Morphine 15mg q6' prn breakthrough pain  
Morphine SR 15mg 1 tablet 6am, 1 tablet 2pm, 1 tablet 10 ___  
Tylenol 1g q8'  
Loratadine 10mg daily  
Calcium/Vit D  
Senna  
MVI  
Fluoxetine 20mg daily  

 
Discharge Medications:
1. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
2. Fexofenadine 60 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
4. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
5. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
6. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QSUN (every 
___.  
7. Morphine 15 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q8H (every 8 hours).  
8. Fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
9. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q 8H 
(Every 8 Hours).  
10. Morphine 15 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for pain for 1 weeks.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
musculoskeletal pain
Rib fracture

 
Discharge Condition:
good

 
Discharge Instructions:
You were evaluated and admitted for your L side flank pain. Your 
evaluation, including xrays, lab work and cat scans showed only 
the possibility of rib fracture or contusion. Your pain was 
controlled while you were here. Also, some blood tests were sent 
to evaluate your osteoporosis, and the parathyroid hormone was 
elevated. This issue should be followed upwith your primary care 
doctor. 

Continue your home regimen of medications as previously 
prescribed. 

Follow up as directed. 

Call your doctor or come to the emergency room if you experience 
the following: 
Fever, chills, nausua/vomiting, chest pain, shortness of breath, 
continued or increased pain, abdominal pain or any other 
symptoms that are worrisome to you. 
 
Followup Instructions:
___